data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_526644_2,[C@@:1]([C:2](/[C:5](=[C:6](\[C:4]([H:21])([H:22])[H:23])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])([O:9][H:10])[H:11]>>[C@@:1]1([C:3]([H:18])([H:19])[H:20])([H:11])[C:2]([H:16])([H:17])[C@:5]1([C@:6]([C:4]([H:21])([H:22])[H:23])([N:8]([H:14])[H:15])[O:9][H:10])[N:7]([H:12])[H:13],70.38102750000917
MR_620374_1,[C:1]([C:4]([O:7][H:10])[N:8][N:3]([N:2]([N:5]([H:12])[H:13])[O:6][H:9])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C@@:4]([N:2]([N:5]([H:12])[H:13])[O:6][H:9])([O:7][H:10])/[N:8]=[N:3]\[H:11])([H:14])([H:15])[H:16],30.018972500006527
MR_92181_1,[C:1]([N:5]([C:2]([N:7]([H:9])[H:10])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:5]([C:3]([H:15])([H:16])[H:17])[C:6]1([C:4]([H:18])([H:19])[H:20])[O:8][C:2]([N:7]([H:9])[H:10])([H:13])[H:14],70.79580499999636
MR_86701_0,[C:1]([C:2](=[C:4]([H:11])[H:12])[O:5][C:3](=[O:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]([H:11])[H:12])[O:6][C:3](=[O:5])[H:7])([H:8])([H:9])[H:10],44.18917750004212
MR_278082_1,[C:1]([N:5][N:4][O:3][N:2]([H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([N:5]([N:2]([H:6])[H:7])[N:4]=[O:3])([H:8])([H:9])[H:10],36.158432500022
MR_656772_0,[C:1](/[C:3](=[C:4](\[C:2]([H:15])([H:16])[H:17])[N:5]([H:10])[H:11])[O:7][H:9])([C:6](=[O:8])[H:14])([H:12])[H:13]>>[C:1](=[C:3]([C:4]([C:2]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])[C:6](=[O:8])[H:14])[O:7][H:9])([H:12])[H:13],55.967980000015984
MR_84031_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[C:5](\[C:3]([H:15])([H:16])[H:17])[H:11])[H:10])([O:6][O:7][H:8])[H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](/[C:5]([C:3]([H:15])([H:16])[H:17])([O:6][O:7][H:8])[H:11])[H:10])[H:9],47.398212500001335
MR_678679_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:6](/[N:5]([H:10])[H:11])[H:12])([N:7]=[O:8])[H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:9])[C:4]([C:3]([H:16])([H:17])[H:18])([N:7]=[O:8])[C:6]1([N:5]([H:10])[H:11])[H:12],52.32408750001326
MR_330441_0,[C:1]([N:3]([C:6](=[O:8])[H:11])/[C:7](=[C:4](/[C:2]([H:16])([H:17])[H:18])[N:5]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:7](\[C@:4]([C:2]([H:16])([H:17])[H:18])([N:5]([H:9])[H:10])[C:6](=[O:8])[H:11])[H:12])([H:13])([H:14])[H:15],69.85769250004637
MR_536965_0,[C:1](/[N:8]=[C:4]([C:2]([H:16])([H:17])[H:18])/[C:3]([N:5]([H:10])[H:11])=[C:6](\[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:4]([C:2]([H:16])([H:17])[H:18])=[C:3]([N:5]([H:10])[H:11])[C@@:6]1([O:7][H:9])[H:12])([H:13])([H:14])[H:15],45.18062750000013
MR_559135_2,[C:1]([C:4]1(/[C:3](=[N:5]/[H:11])[N:6]([H:13])[H:14])[N:2]([H:10])[C:8]1([C:9]([N:7]([H:15])[H:16])([H:12])[H:18])[H:17])([H:19])([H:20])[H:21]>>[C:1]([C:4]([N:2](/[C:8](=[C:9](/[N:7]([H:15])[H:16])[H:18])[H:17])[H:10])=[C:3]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([H:19])([H:20])[H:21],40.29993249998114
MR_704731_1,[C:1](=[C:2]([N:5]([H:14])[H:15])\[C:6](=[N:8]/[N:3]([H:10])[H:11])[H:16])(\[N:4]([H:12])[H:13])[O:7][H:9]>>[C:1]1([N:4]([H:12])[H:13])([O:7][H:9])[C:2]([N:5]([H:14])[H:15])=[C:6]([H:16])[N:8]1[N:3]([H:10])[H:11],59.67901499999186
MR_126066_0,[C:1](/[N:8]=[C:4]([C:5](/[C:2]([H:15])([H:16])[H:17])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:11])\[N:6]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:4]([N:6]([H:9])[H:10])=[C:5]([C:2]([H:15])([H:16])[H:17])[C:7]1([C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14],48.14493749997084
MR_624073_0,[C:1]([N:2]([C:3]([N:5]([H:9])[H:10])=[O:8])/[C:4]([N:6]([H:11])[H:12])=[N:7]\[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:4](\[N:6]([H:11])[H:12])[N:7]([C:3]([N:5]([H:9])[H:10])=[O:8])[H:13])([H:14])([H:15])[H:16],41.024067499972006
MR_283279_2,[C:1]([C:2]([O:5][N:3]([H:10])[H:11])=[O:7])([N:4]([H:12])[H:13])([O:6][H:8])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:2]([N:4]([H:12])[H:13])([O:5][N:3]([H:10])[H:11])[O:7]1,65.18470000003802
MR_555576_1,[N:1]([C:2](=[O:5])[H:7])([N:4]=[C:3]([H:8])[H:9])[H:6]>>[N:1]([N:4][C:3]([C:2](=[O:5])[H:7])([H:8])[H:9])[H:6],60.79659250002379
MR_302289_2,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:4](=[C:5](/[C:3]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:5](=[C:4](/[C:3]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([O:8][H:9])[H:10],59.39161999996841
MR_326482_0,[C:1]([C:2]([N:5]([C:4]([H:16])([H:17])[H:18])[H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[N:8]=[C:6]([H:19])[H:20]>>[C:1]([C:2]([N:8]=[C:6]([H:19])[H:20])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:5]([C:4]([H:16])([H:17])[H:18])[H:10])[O:7][H:9],62.66214999998638
MR_251341_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]\[C:3]([H:14])([H:15])[H:16])([O:6][H:10])[O:7][H:9]>>[C@@:1]1([C:2]([H:11])([H:12])[H:13])([O:7][H:9])[C@@:5]([C:4]([H:17])([H:18])[H:19])([O:6][H:10])[N:8]1[C:3]([H:14])([H:15])[H:16],70.38667499999491
